US06218397B1
3-{Benzyl-[6-methyl-3-methylsulfanyl-1-(2,4,6-trichlorophenyl)-1H-pyrazolo[3.4-d]pyrimidin-4-yl]-amino}-propan-1-ol acetate.
A solution of 3-{benzyl-[6-methyl-3-methylsulfanyl-1-(2,4,6-trichlorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl]amino}-propanol (80 mg, 0.148 mmol) in 1 ml of methylene chloride was treated with acetic anhydrous (38 mg, 0.37 mmol) and triethyl amine (38 mg, 0.37 mmol) and stirred at room temperature for 15 hours. The mixture was quenched with water and a few drops of dilute HCl and extracted with ethyl acetate. The organic layer was neutralized with aqueous sodium bicarbonate and washed with brine, separated, dried and concentrated to give the title compound as an oil. The oil was purified through silica gel column chromatography using chloroform as eluent to give 57 mg of the title compound as a white glass form. 1H NMR (CDCl3): 2.0(s,3H, 2.03(m,2H), 2.45(s,3H), 2.60(s,3H), 3.74(t,2H), 4.10(t,2H), 5.1(s,2H), 7.2-7.4(m,5H), 7.50(s,2H) ppm.

reactant | 3-{benzyl-[6-methyl-3-methylsulfanyl-1-(2,4,6-trichlorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl]amino}-propanol | 0.148 mmol, 80 mg | C(C1=CC=CC=C1)N(CCCO)C1=C2C(=NC(=N1)C)N(N=C2SC)C2=C(C=C(C=C2Cl)Cl)Cl | C23H22Cl3N5OS
reactant | acetic | 0.37 mmol, 38 mg | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
reactant | triethyl amine | 0.37 mmol, 38 mg | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | 3-{Benzyl-[6-methyl-3-methylsulfanyl-1-(2,4,6-trichlorophenyl)-1H-pyrazolo[3.4-d]pyrimidin-4-yl]-amino}-propan-1-ol acetate | C(C)(=O)OCCCN(C1=C2C(=NC(=N1)C)N(N=C2SC)C2=C(C=C(C=C2Cl)Cl)Cl)CC2=CC=CC=C2 | C25H24Cl3N5O2S
